US08252806B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-diethyl-amine, Hydrochloride (Compound A3)
Was prepared according to Method A from 2,4-dichloroquinazoline, diethylamine and 3,5-dimethylpyrazole. Mp. 156.3° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | diethylamine | C(C)NCC | C4H11N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-diethyl-amine, Hydrochloride | Cl.CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)N(CC)CC | InChI=1S/C17H21N5.ClH/c1-5-21(6-2)16-14-9-7-8-10-15(14)18-17(19-16)22-13(4)11-12(3)20-22;/h7-11H,5-6H2,1-4H3;1H
